### PR TITLE
Add computation rules to suspension and pushout

### PR DESCRIPTION
**Pull request by TimonNajdovski**
I added the missing computation rules to the suspension and pushout types, as suggested in the discord.

### CODE REVIEW

File: Agda/HITs/Lecture4-notes.lagda.md [hunk 1]
```diff
@@ -318,8 +327,12 @@ module _  {C : Type} {A : Type} {B : Type} {f : C → A} {g : C → B} where
     inr : B → Pushout C A B f g
     glue : (c : C) → inl (f c) ≡ inr (g c)
     Push-rec : {X : Type} (l : A → X) (r : B → X) (gl : (c : C) → l (f c) ≡ r (g c))
-             → Pushout C A B f g → X
-```
+             → Pushout C A B f g → X           
+    Push-rec-glue-l : {X : Type} (l : A → X) (r : B → X) (gl : (c : C) → l (f c) ≡ r (g c))
+                    → (a : A) → (Push-rec l r gl) (inl a) ≡ l a            
+    Push-rec-glue-r : {X : Type} (l : A → X) (r : B → X) (gl : (c : C) → l (f c) ≡ r (g c))
+                    → (b : B) → (Push-rec l r gl) (inr b) ≡ r b
```
Comment (ncfavier) [inline Agda/HITs/Lecture4-notes.lagda.md:334]: These should be named `Push-rec-in{l,r}` and there should be a separate rule for `glue`.

Comment (ncfavier) [reply Agda/HITs/Lecture4-notes.lagda.md:334]: You marked this as resolved, did you forget to push the update?

Comment (TimonNajdovski) [reply Agda/HITs/Lecture4-notes.lagda.md]: I marked it as resolved accidentaly, sorry. Thank you for the correction, the update should be pushed now.

File: Agda/HITs/Lecture4-notes.lagda.md [hunk 2]
```diff
@@ -327,11 +327,18 @@ module _  {C : Type} {A : Type} {B : Type} {f : C → A} {g : C → B} where
...
                     → (a : A) → (Push-rec l r gl) (inl a) ≡ l a            
-    Push-rec-glue-r : {X : Type} (l : A → X) (r : B → X) (gl : (c : C) → l (f c) ≡ r (g c))
+    Push-rec-inr : {X : Type} (l : A → X) (r : B → X) (gl : (c : C) → l (f c) ≡ r (g c))
                     → (b : B) → (Push-rec l r gl) (inr b) ≡ r b
+                           
+    Push-rec-glue : {X : Type} (l : A → X) (r : B → X) (gl : (c : C) → l (f c) ≡ r (g c))
+                    → (c : C) → gl c ≡ (l (f c)                    ≡⟨ !  (Push-rec-inl l r gl (f c)) ⟩
+                                       Push-rec l r gl (inl (f c)) ≡⟨ ap (Push-rec l r gl) (glue c) ⟩
+                                       Push-rec l r gl (inr (g c)) ≡⟨     Push-rec-inr l r gl (g c) ⟩
+                                       r (g c) ∎)
```
Comment (ncfavier) [inline Agda/HITs/Lecture4-notes.lagda.md:341]: An alternative would be to use something like
```agda
PathOver (λ A → A) (ap₂ _≡_ (Push-rec-inl l r gl (f c)) (Push-rec-inr l r gl (g c)))
  (ap (Push-rec l r gl) (glue c))
  (gl c)
```
sadly `PathOver` is only introduced in the lecture 5 notes.

**Comment by dlicata335** [comment]
Could someone summarize or point me to the discussion on the discord?

**Comment by ncfavier** [comment]
https://discord.com/channels/964553017212956692/970004609458405447/1102358678973198366

Not much discussion, just noticing that some of the computation rules are missing.

**Comment by TimonNajdovski** [comment]
I just noticed an issue, there are postulates in the fifth exercise sheet for these same missing computation rules for the suspension and it's creating multiple definitions of the same function. Should we rename these or just remove them?
